US08349880B2
Step J (1): A mixture of 4-chloro-1H-imidazole (1.18 g, 11.5 mmol), 1,2,3-trifluoro-5-nitrobenzene (1.7 g, 9.60 mmol) and potassium carbonate (1.86 g, 13.4 mmol) in DMF (10 mL) was heated at 50° C. for 2 h. The reaction mixture was allowed to cool to rt and was stirred for 16 h. The reaction mixture was diluted with EtOAc (200 mL) and washed with water and brine. The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The residue was purified using silica gel column chromatography (50% EtOAc/hexane) to afford 4-chloro-1-(2,6-difluoro-4-nitrophenyl)-1H-imidazole (2.0 g, 80% yield). LC-MS (M+H)+=260.1. 1H NMR (500 MHz, chloroform-d) δ ppm 8.03-8.10 (m, 2 H) 7.71 (q, J=1.83 Hz, 1 H) 7.19 (q, J=1.93 Hz, 1 H).

reactant | 4-chloro-1H-imidazole | 11.5 mmol, 1.18 g | ClC=1N=CNC1 | C3H3ClN2
reactant | 1,2,3-trifluoro-5-nitrobenzene | 9.60 mmol, 1.7 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)F | C6H2F3NO2
reactant | potassium carbonate | 13.4 mmol, 1.86 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | 4-chloro-1-(2,6-difluoro-4-nitrophenyl)-1H-imidazole | 2.0 g, 80% yield | ClC=1N=CN(C1)C1=C(C=C(C=C1F)[N+](=O)[O-])F | C9H4ClF2N3O2
